US04143144
To 24 grams (0.6 mole) of sodium hydroxide dissolved in 120 mls of water, was added 300 mls of 2-(hydroxymethyl)furan and the solution warmed to 50° C. In this mixture was added incremently over a 20 minute period, 106.15 grams (0.4 mole) of 2,6-dichloro-4-(trichloromethyl)pyridine. The mixture was heated to ~80° C. for ~3.5 hours and thereafter diluted with water and extracted with hexane. The extract was washed with water and the hexane evaporated off leaving ~114 grams (~87 percent of theoretical) of the desired 2-chloro-6-(2-furanylmethoxy)-4-(trichloromethyl)pyridine product. The product, an oil, had a refractive index of n 25/d = 1.5722 and upon analysis was found to have carbon, hydrogen and nitrogen contents of 40.41, 2.21 and 4.21 percent, respectively, as compared with the theoretical contents of 40.40, 2.16 and 4.28 percent, respectively, as calculated for the above named compound.

reactant | sodium hydroxide | 0.6 mole, 24 grams | [OH-].[Na+]
reactant | 2-(hydroxymethyl)furan | 300 mls | OCC=1OC=CC1 | C5H6O2
reactant | 2,6-dichloro-4-(trichloromethyl)pyridine | 0.4 mole, 106.15 grams | ClC1=NC(=CC(=C1)C(Cl)(Cl)Cl)Cl | C6H2Cl5N
solvent | water | 120 mls | O | H2O
product | 2-chloro-6-(2-furanylmethoxy)-4-(trichloromethyl)pyridine | ~114 grams, ~87 percent | ClC1=NC(=CC(=C1)C(Cl)(Cl)Cl)OCC=1OC=CC1 | C11H7Cl4NO2
